US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (0.81 g, 1.36 mmol), 2-chloroethyl ethyl ether (0.59 g, 5.44 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.66 g, 10.88 mmol) in acetonitrile (16 mL). Heat to reflux. After 18 hours, cool to ambient temperature and dilute the reaction mixture with ethyl acetate. Extract twice with saturated aqueous solution of ammonium chloride, 5% aqueous solution of sodium bicarbonate, water, and saturated aqueous solution of sodium chloride. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/5 methanol/ethyl acetate to give the title compound: mp; 65-70° C.; Rf=0.28 (silica gel, 1/5 methanol/ethyl acetate). Elemental Analysis calculated for C39H48N4O6·0.70 H2O: C 68.74; H 7.31; N 8.22; Found: C 68.93; H 7.18; N 8.22.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 1.36 mmol, 0.81 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H40N4O5
reactant | 2-chloroethyl ethyl ether | 5.44 mmol, 0.59 g | C(C)OCCCl | C4H9ClO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10.88 mmol, 1.66 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H48N4O6
